US05767131
4,4-Diphenylpiperidine hydrochloride.
A mixture of 4-piperidone monohydrate hydrochloride (15.0 g, 97.6 mmol, 1.00 equiv) and AlCl3 (130 g, 976 mmol, 10.0 equiv) in anhydrous benzene (600 mL) was stirred at reflux for 4 hours. The mixture was cooled to room temperature, poured into ice (300 g) and water (50 mL), and filtered. The solid was washed with toluene and dried to afford 19.2 g (72%) of off-white solid, which was characterized spectroscopically.

reactant | 4-piperidone monohydrate hydrochloride | 97.6 mmol, 15.0 g, 1.00 equiv | Cl.O.N1CCC(CC1)=O
reactant | AlCl3 | 976 mmol, 130 g, 10.0 equiv | [Al+3].[Cl-].[Cl-].[Cl-]
reactant | water | 50 mL | O | H2O
reactant | benzene | 600 mL | C1=CC=CC=C1 | C6H6
product | 4,4-Diphenylpiperidine hydrochloride | 19.2 g, 72% | Cl.C1(=CC=CC=C1)C1(CCNCC1)C1=CC=CC=C1 | InChI=1S/C17H19N.ClH/c1-3-7-15(8-4-1)17(11-13-18-14-12-17)16-9-5-2-6-10-16;/h1-10,18H,11-14H2;1H
